US06509328B1
(4-Cyclopropyl-2-nitro-phenyl)-carbamic Acid tert.-Butyl Ester
Prepared from 4-cyclopropyl-2-nitro-phenylamine prepared from nitration of N-(4-cyclopropyl-phenyl)-acetamide (CAS-No. [63649-64-9] with 65% HNO3 in Ac2O and subsequent saponification with 6N NaOH in refluxing dioxane) by reaction with Boc2O and cat. DMAP in THF, followed by treatment with TFA in CH2Cl2 according to the general procedure A (method c). Obtained as an orange liquid (2.33 g).

reactant | 4-cyclopropyl-2-nitro-phenylamine | C1(CC1)C1=CC(=C(C=C1)N)[N+](=O)[O-] | C9H10N2O2
reactant | N-(4-cyclopropyl-phenyl)-acetamide | 6N | C1(CC1)C1=CC=C(C=C1)NC(C)=O | C11H13NO
reactant | Boc2O | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
catalyst | DMAP | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | THF | C1CCOC1 | C4H8O
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | (4-Cyclopropyl-2-nitro-phenyl)-carbamic Acid tert.-Butyl Ester | 2.33 g | C(C)(C)(C)OC(NC1=C(C=C(C=C1)C1CC1)[N+](=O)[O-])=O | C14H18N2O4
